### PR TITLE
[Merged by Bors] - feat: forward-port #18321

### PR DESCRIPTION
**Pull request by urkud**
---

- [x] depends on: leanprover-community/mathlib#18321
- [x] Update SHA sums

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by semorrison** [comment]
This PR/issue depends on:
* leanprover-community/mathlib#18321
By **[Dependent Issues](https://github.com/z0al/dependent-issues)** (🤖). Happy coding!

**Comment by semorrison** [comment]
This PR/issue depends on:
* ~~leanprover-community/mathlib#18321~~
By **[Dependent Issues](https://github.com/z0al/dependent-issues)** (🤖). Happy coding!

File: Mathlib/Topology/ContinuousOn.lean [hunk 1]
```diff
@@ -252,6 +252,21 @@ theorem nhdsWithin_union (a : α) (s t : Set α) : 𝓝[s ∪ t] a = 𝓝[s] a 
   rw [← inf_sup_left, sup_principal]
 #align nhds_within_union nhdsWithin_union
 
+theorem nhdsWithin_bunionᵢ {ι} {I : Set ι} (hI : I.Finite) (s : ι → Set α) (a : α) :
+    𝓝[⋃ i ∈ I, s i] a = ⨆ i ∈ I, 𝓝[s i] a :=
+  Set.Finite.induction_on hI (by simp) fun _ _ hT ↦ by
+    simp only [hT, nhdsWithin_union, supᵢ_insert, bunionᵢ_insert]
```
Comment (urkud) [inline Mathlib/Topology/ContinuousOn.lean:258]:
```suggestion
    simp only [hT, nhdsWithin_union, supᵢ_insert, bunionᵢ_insert]
#align nhds_within_bUnion nhdsWithin_bunionᵢ
```

File: Mathlib/Topology/ContinuousFunction/Basic.lean [hunk 2]
```diff
@@ -365,17 +365,12 @@ variable {ι : Type _} (S : ι → Set α) (φ : ∀ i : ι, C(S i, β))
...
-  refine' ⟨Set.liftCover S (fun i => φ i) hφ H, continuous_subtype_nhds_cover hS _⟩
-  intro i
-  convert (φ i).continuous
-  apply Set.liftCover_coe
+noncomputable def liftCover : C(α, β) :=
+  haveI H : (⋃ i, S i) = Set.univ :=
+    Set.unionᵢ_eq_univ_iff.2 fun x ↦ (hS x).imp fun _  ↦ mem_of_mem_nhds
+  mk (Set.liftCover S (fun i ↦ φ i) hφ H) <| continuous_of_cover_nhds hS fun i ↦ by
+    rw [continuousOn_iff_continuous_restrict]
+    simpa only [Set.restrict, Set.liftCover_coe] using (φ i).continuous
```
Comment (eric-wieser) [inline Mathlib/Topology/ContinuousFunction/Basic.lean:373]: Was this golfed during porting? This diff doesn't look like the one at https://leanprover-community.github.io/mathlib-port-status/file/topology/continuous_function/basic?range=6efec6bb9fcaed3cf1baaddb2eaadd8a2a06679c..55d771df074d0dd020139ee1cd4b95521422df9f

File: Mathlib/Topology/ContinuousOn.lean [hunk 3]
```diff
@@ -4,7 +4,7 @@ Released under Apache 2.0 license as described in the file LICENSE.
 Authors: Sébastien Gouëzel
 
 ! This file was ported from Lean 3 source module topology.continuous_on
-! leanprover-community/mathlib commit bcfa726826abd57587355b4b5b7e78ad6527b7e4
+! leanprover-community/mathlib commit 55d771df074d0dd020139ee1cd4b95521422df9f
```
Comment (eric-wieser) [inline Mathlib/Topology/ContinuousOn.lean:7]: I assume this was ported by hand? I think it would be best to put off reviewing it until the mathport output is available and shown on https://leanprover-community.github.io/mathlib-port-status/file/topology/continuous_on?range=bcfa726826abd57587355b4b5b7e78ad6527b7e4..55d771df074d0dd020139ee1cd4b95521422df9f

**Review by eric-wieser — COMMENTED** [review]
Four of the files look good, I'll review the remaining three once there is mathport output to compare to.

File: Mathlib/Topology/ContinuousFunction/Basic.lean (hunk 2 above)
Comment (urkud) [reply Mathlib/Topology/ContinuousFunction/Basic.lean:373]: Yes. I don't think that we need to backport golfing.

File: Mathlib/Topology/ContinuousOn.lean (hunk 3 above)
Comment (urkud) [reply Mathlib/Topology/ContinuousOn.lean:7]: Yes, I copy+pasted, then fixed compile.

**Review by eric-wieser — APPROVED** [review]
bors merge

It's not worth quibbling about the style changes, but in future it would be easier to review if you just copied the mathport output.
